US07531695B2
(4-Bromophenyl)-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-methanone
1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene (2 g, 9.9 mmol) and 4-bromobenzoyl chloride (2.17 g, 9.9 mol) were dissolved in 20 mL of CH2Cl2 and cooled to 0° C. using an ice-water-NaCl bath. AlCl3 (3.95 g, 29.7 mmol) was added in portions at over 5 min. The dark reaction mixture was allowed to stir at 0° C. for 5 min. The reaction was quenched by slow addition of ice at 0° C. The mixture was diluted with water and 150 mL of EtOAc was added and the layers were separated. The aqueous layer was washed with additional EtOAc (150 mL). The combined organic layers were washed with water (200 mL) and brine (100 mL) and dried over MgSO4. The filtrate was concentrated in vacuo to yield a yellow foamy solid residue that was recrystallized from MeOH (40 mL).

reactant | 1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene | 9.9 mmol, 2 g | CC1(CCC(C2=CC(=CC=C12)C)(C)C)C | C15H22
reactant | 4-bromobenzoyl chloride | 9.9 mol, 2.17 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | AlCl3 | 29.7 mmol, 3.95 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (4-Bromophenyl)-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-methanone | BrC1=CC=C(C=C1)C(=O)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C22H25BrO
